Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: NEUROLOGY
 
Allergies: 
aspirin
 
Attending: ___.
 
Chief Complaint:
Seizure
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
HPI:
___ is a ___ yo right handed man with a history of 2 
previous unprovoked lifetime seizures, who presents with a 
seizure.

He was at work as a ___, doing ___ and 
helping out behind the bar. The next thing he remembers is 
waking up on the floor surrounded by paramedics. He was told he 
had a seizure that lasted ___ minutes. He hit the back of his 
head and has a laceration that was stapled in the ED. He felt 
disorienteded immediately afterward and was having trouble 
answering the basic questions(address, age) posed by the EMS 
crew. He currently feels much better - a little groggy but 
otherwise back to baseline. He denies any aura symptoms prior to 
the seizure - no ___, smells, gastric rising, or other 
sensations. He had no tongue bite and no incontinence. He 
reports decreased sleep over the past ___ days, getting 
3hr/night due to his hectic late night work schedule. He denies 
recent illnesses, headache, neck pain, or infectious symptoms.

His first seizure was ___ yrs ago. It was ___ and he 
was having dinner with his family when he noticed his right hand 
shaking (unsure if his left was shaking also). His "food was 
flying off the fork." He got up to go to the bathroom and the 
next thing he remembers is waking up on the floor with 
paramedics surrounding him. Around ___ years later he was on 
vacation in the ___, in a swimming pool, when he suddenly began 
to seize with no aura. His friend pulled him out of the swimming 
pool. The patient remembers being in the pool one moment then 
being carried inside by his friend the next. After returning 
home, he saw a neurologist and was placed on Dilantin. He had a 
head CT and an EEG. The patient doesn't remember the results 
though doesn't specifically remember anything being abnormal in 
the workup. He has not had any seizures since that last one ___ 
yrs ago.

Review of Systems:
The pt denies headache, loss of vision, blurred vision, 
diplopia, dysarthria, dysphagia, lightheadedness, vertigo, 
tinnitus or hearing difficulty. Denies difficulties producing or 
comprehending speech.  Denies focal weakness, numbness, 
parasthesiae. No bowel or bladder incontinence or retention. 
Denies difficulty with gait. The pt denies recent fever or 
chills.  No recent weight loss. Denies cough, shortness of 
breath.  Denies chest pain or palpitations.  

Home Medications: none
 
Allergies: aspirin (had a severe nosebleed as a child after 
taking ASA for migraine)

 
Past Medical History:
Past Medical and Surgical History:
- h/o 2 previous seizures
- ?HTN - undiagnosed, has no PCP 
- migraine headaches in childhood - improved in adulthood
- psoriasis - previously on med for this but is no longer taking
 
Social History:
___
Family History:
Family History:
- no history of seizures in the family
- both parents were diabetic - father was type 1, mother type 2

 
Physical Exam:
****ADMISSION EXAMINATION****
Vitals:  99.9  ___  18  96% RA 
General: Awake, cooperative, NAD.
HEENT: NC/AT
Neck: Supple with full ROM and no meningismus. 
Pulmonary: breathing comfortably on RA
Cardiac: RRR
Abdomen: soft, nondistended
Extremities: no edema, warm
Skin: RLE scaly plaque c/w psoriasis
 
NEUROLOGIC EXAMINATION
-Mental Status: Alert, oriented.  Able to relate history without 
difficulty.  Language is fluent with intact repetition and 
comprehension.  Normal prosody.  There were no paraphasic 
errors.  Pt. was able to name both high and low frequency 
objects on the stroke card. Described the ___ picture 
with detail.  Able to read without difficulty.  Speech was not 
dysarthric.  Able to follow both midline and appendicular 
commands.  Able to register 3 objects and recall ___ at 5 
minutes.  There was no evidence of neglect.

-Cranial Nerves:
I: Olfaction not tested.
II: PERRL 3 to 2mm bilaterally.  Funduscopic exam revealed no 
papilledema.
III, IV, VI: EOMI without nystagmus.   
V: Facial sensation intact to light touch in all distributions 
VII: No facial droop with symmetric upper and lower facial 
musculature bilaterally  
VIII: Hearing intact to ___ bilaterally.
IX, X: Palate elevates symmetrically.
XI: full strength in trapezii bilaterally.
XII: Tongue protrudes in midline with full ROM right and left 
 
-Motor: Normal bulk, tone throughout. No pronator drift 
bilaterally. Mild action tremor noted. 
 Delt Bic Tri WrE FFl FE IO  IP Quad Ham TA ___
L  ___   ___  ___   5   5    5     5   5
R  ___   ___  ___   5   5    5     5   5
 
-DTRs:
    Bi  Tri  ___  Pat  Ach
L   2    2     2     2+   2
R   2    2     2     2+   2
- Toes were downgoing bilaterally.

-Sensory: No deficits to light touch, pinprick, cold sensation, 
vibratory sense throughout. 

-Coordination: No dysmetria on FNF or HKS bilaterally. Rapid 
alternating movements with normal and symmetric cadence and 
speed. 

-Gait: Good initiation. ___, normal stride.  Able to 
walk in tandem and on toes and heels without difficulty. Romberg 
absent.

***DISCHARGE PHYSICAL EXAMINATION***
Vitals:  Afebrile  81  168/95  18  100% RA 
General: Awake, cooperative, NAD.
HEENT: NC/AT
Neck: Supple with full ROM and no meningismus. 
Pulmonary: breathing comfortably on RA
Cardiac: No cyanosis
Abdomen: soft, nondistended
Extremities: no edema, warm
Skin: psoriatic plaques, multiple nevi, facial ruddiness 
 
NEUROLOGIC EXAMINATION
-Mental Status: Alert, oriented.  Able to relate history without 
difficulty.  Language is fluent with intact repetition and 
comprehension.  Normal prosody.  There were no paraphasic 
errors.  Pt. was able to name both high and low frequency 
objects. Speech was not dysarthric. Able to follow both midline 
and appendicular commands. There was no evidence of neglect.

-Cranial Nerves:
I: Olfaction not tested.
II: PERRL 3 to 2mm bilaterally. 
III, IV, VI: EOMI without nystagmus.   
V: Facial sensation intact to light touch in all distributions 
VII: No facial droop with symmetric upper and lower facial 
musculature bilaterally  
IX, X: Palate elevates symmetrically.
XI: full strength in trapezii bilaterally.
XII: Tongue protrudes in midline
 
-Motor: Normal bulk, tone throughout. No pronator drift 
bilaterally. Mild resting, postural, and action tremor noted. 
 Delt Bic Tri WrE FFl FE IO  IP Quad Ham TA ___
L  ___   ___  ___   5   5    5     5   5
R  ___   ___  ___   5   5    5     5   5

-Sensory: No deficits to light touch throughout
-Coordination: No dysmetria on FNF bilaterally. 
-Gait: Good initiation. ___, normal stride.   
 
Pertinent Results:
LABS:
140  103  17     AGap=17 
---I----I---< 101
3.6  24  0.9  

estGFR: >75 (click for details)  

ALT: 21 AP: 67 Tbili: 0.8 Alb: 4.8 
AST: 29  Lip: 34     

Serum ASA, EtOH, Acetmnphn, Benzo, Barb, Tricyc Negative 

MCV 87 
17.6 > 15.2/44.6 < 228 
     
 N:87.5 L:7.3 M:3.9 E:0.3 Bas:0.5 ___: 0.5 Absneut: 15.42 
Abslymp: 1.28 Absmono: 0.69 Abseos: 0.05 Absbaso: 0.08  

___: 10.6  PTT: 26.8  INR: 1.0  

Urine Benzos, Barbs, Opiates, Cocaine, Amphet, Mthdne, Oxycodone 
Negative 

UA: RBC 14,  WBC 2,  Bact Few,  Yeast None,  Epi <1  

IMAGING:
___ ___: wet read  
IMPRESSION:  
1. No acute intracranial process. 
2. Posterior scalp laceration and soft tissue swelling 

MRI Brain ___:
FINDINGS:   
There is motion artifact most apparent on the FLAIR and MPRAGE 
sequences which degrades spatial resolution.  
The parenchymal signal is unremarkable without infarct, 
hemorrhage, mass, or mass effect.  There is no abnormal 
parenchymal enhancement.  The ventricles and cortical sulci are 
normal in caliber configuration.  The vascular flow voids are 
preserved.  The ___ spaces are unremarkable.  There is 
normal dural venous enhancement. 
The orbits, calvarium, and soft tissues are unremarkable.  There 
is a small mucous retention cyst within the left sphenoid and 
left maxillary sinuses.  There is susceptibility artifact at the 
posterior midline calvarium corresponding to skin staples seen 
on prior CT. 
IMPRESSION:  
No acute intracranial abnormality.  No evidence of posterior 
reversible 
encephalopathy. 

CXR ___:
Comparison to ___.  No relevant change.  Known 
sclerotic vertebral lesion.  The markers identifiable at the 
rounded structure seen on the previous images.  Correspond to 
the nipples.  No pneumonia, no pulmonary edema, no pleural 
effusions. 

CXR ___:
FINDINGS:  
There is a vague 1.2 cm nodular opacity projecting over of the 
right anterior sixth rib on the frontal view.  Normal heart 
size, mediastinal and hilar contours.  No focal consolidation, 
pleural effusion or pneumothorax. A round dense opacity 
projecting over the mid thoracic spine appears to correspond to 
an osteophyte on the frontal view. 
IMPRESSION: 
1. No evidence of pneumonia. 
2. Vague 1.2 cm nodular opacity projecting over the right 
anterior sixth rib could reflect a nipple shadow. 

Renal artery ultrasound with Doppler ___:
1.  No gross evidence of renal artery stenosis.  However, please 
note that 
CTA/ MRA is more sensitive for the detection of renal artery 
stenosis. 
2.  Left kidney is smaller compared to the right.  No focal 
renal lesion or hydronephrosis identified. 

___ 06:00AM BLOOD ___ 
___ Plt ___
___ 10:05PM BLOOD ___ 
___ Im ___ 
___
___ 06:00AM BLOOD ___ 
___
___ 03:00PM BLOOD CK(CPK)-PND
___ 10:05PM BLOOD ___
___ 03:00PM BLOOD ___
___ 06:00AM BLOOD ___
___ 06:00AM BLOOD ___
___ 03:00PM BLOOD ___
___ 10:05PM BLOOD ___ 
___
___ 06:00AM BLOOD ___
 
Brief Hospital Course:
___ is a ___ man with a remote history of seizures 
(last ___ years ago, briefly on Dilantin for 6 months at that 
time but off since) and likely undiagnosed HTN who presented 
with a seizure. Of note, patient did not have a PCP at the time 
of admission and had not been to see a doctor in some years. 
Most likely this was a breakthrough seizure in the setting of 
epilepsy, perhaps triggered by recent decreased sleep. However, 
he was significantly hypertensive in the ED with BP 212/119. 
Significantly elevated BP can induce seizures with PRES. MRI 
negative for PRES, BP relatively controlled with lisinopril 
20mg. Additional ___ for hypertension included UA x2 (first 
with 30mg/dL protein, small blood, trace glucose, 14 RBC and 2 
WBC; repeat following day with large blood, trace protein, 
negative glucose, 1 RBC and 1WBC). Had renal artery ultrasound 
showing some asymmetry in kidney size but no evidence of renal 
artery stenosis. Given CTA is a better study to evaluate for 
renal artery stenosis, recommend considering this as an 
outpatient. Also sent aldosterone and random urine 
catecholamines (both pending at the time of discharge); may 
consider 24 hour urine catecholamines as an outpatient if 
ongoing difficult to treat hypertension. Given seizure and large 
blood in urine with few RBCs on repeat on day of discharge, sent 
CK to evaluate for degree of muscle injury(pending at time of 
discharge). Discussed with patient that if significantly 
elevated may need to return to ED. 

He was started on levetiracetam 750 mg BID for prevention of 
seizures and instructed that by law, he cannot drive until he 
has been seizure free for six months. He did not have any 
further clinical seizures. He had a routine EEG which did not 
show any electrographic seizures or epileptiform discharges. He 
should also follow up with Neurology as an outpatient (will need 
to call ___ to schedule an appointment in Neurology 
clinic at ___ as does not have a Neurologist at this time).  

Patient with sclerotic spine lesion noted on CXR; sent SPEP and 
UPEP but on further review with radiology appeared consistent 
with osteophyte. 

Given patient's need to return to work on day of discharge 
(strongly preferred outpatient uptitration of BP meds with daily 
outpatient monitoring), we discussed the risks of leaving 
without total control of his blood pressure including stroke, 
hemorrhage, heart problems, and kidney problems. He was 
discharged on lisinopril 20 mg daily. He will be checking his 
blood pressure daily and will titrate his lisinopril 
accordingly. He was set up with a primary care physician with ___ 
followup appointment scheduled for the week following discharge. 


Discharge issues:
1. Did not have a PCP; appointment set up at ___ primary care 
2. Needs Neurology followup given third lifetime seizure, now on 
new AED
3. Had no prior home medications. Discharged on Keppra 750 mg PO 
BID and lisinopril 20 mg daily
4. Outpatient BP monitoring and uptitration of BP medications
5. Consider renal CTA for workup of hypertension
6. Pending labs including CK (if significantly elevated, risk 
for rhabdomyolysis)
7. Patient may not drive until he has been seizure free for at 
least 6 months. 

 
 
Medications on Admission:
None
 
Discharge Medications:
1. LevETIRAcetam 750 mg PO BID 
RX *levetiracetam 750 mg 1 tablet(s) by mouth twice a day Disp 
#*60 Tablet Refills:*3
2. Lisinopril 20 mg PO DAILY 
RX *lisinopril 10 mg 2 tablet(s) by mouth once a day Disp #*90 
Tablet Refills:*3

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Seizure, hypertensive urgency, malignant hypertension

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

You were admitted to the hospital after a seizure when you were 
found to have extremely elevated blood pressure (systolic blood 
pressure 210). You had imaging of your brain including CT and 
MRI to check for any abnormalities as a result of the elevated 
blood pressure which did not show any abnormalities. You were 
started on a medication called levetiracetam (Keppra) to prevent 
seizures. You will need to take this every day. You may not 
drive until you have not had any seizures for at least 6 months. 
You also had an EEG (brain wave test) which did not show any 
evidence of ongoing seizures at the time of the test. 

You were started on blood pressure medication called lisinopril. 
You should check your blood pressure daily. If the top number 
(systolic blood pressure) is greater than 190, please proceed to 
the nearest emergency department as this is called malignant 
hypertension/hypertensive urgency. If the top number is greater 
than 170, please increase your lisinopril dose to 30 mg daily (3 
pills). You will have follow up with a new primary care doctor 
at ___ office on ___ at 3:20 ___ (Drs. 
___. They will help manage your blood 
pressure as well as other issues. 

You had some blood and protein in your urine which may be a 
result of your elevated blood pressure. You had an ultrasound of 
your kidneys which did not show any abnormalities in your blood 
vessels. You should have additional imaging of your kidneys 
(CTA) as an outpatient. You have some pending labs at the time 
of your discharge. Please be sure to stay well hydrated to 
prevent kidney damage.

It was a pleasure taking care of you, and we wish you the best!

Sincerely,
Your ___ Team
 
Followup Instructions:
___